US06676851B1
A mixture of 2,5-dihydroxybenzoic acid (4.2 g; 27.5 mmol), 1.8-diazabicyclo[5.4.0]undec-7-ene (4.2 g; 27.5 mmol), potassium iodide (41.0 g; 247 mmol), p-[(8-chlorooctyl)oxy]benzonitrile (6.6 g; 25 mmol) and acetonitrile (100 ml) was heated under reflux for 72 h. The reaction mixture was cooled, poured into water (500 ml) and extracted with ethyl acetate (3×150 ml). The combined organic layers were washed with 1N-hydrochloric acid (150 ml) and water (2×150 ml), dried over magnesium sulphate and filtered. The solvent was removed in vacuo. The residue was purified by column flash chromatography on silica gel using a toluene/ethyl acetate 80:20 as eluent to give 8.0 g (84%) of 8-(p-cyanophenoxy)octyl 2,5-dihydroxybenzoate.

reactant | 2,5-dihydroxybenzoic acid | 27.5 mmol, 4.2 g | OC1=C(C(=O)O)C=C(C=C1)O | C7H6O4
reactant | 1.8-diazabicyclo[5.4.0]undec-7-ene | 27.5 mmol, 4.2 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | potassium iodide | 247 mmol, 41.0 g | [I-].[K+]
reactant | p-[(8-chlorooctyl)oxy]benzonitrile | 25 mmol, 6.6 g | ClCCCCCCCCOC1=CC=C(C#N)C=C1 | C15H20ClNO
solvent | water | 500 ml | O | H2O
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 8-(p-cyanophenoxy)octyl 2,5-dihydroxybenzoate | 8.0 g, 84% | OC1=C(C(=O)OCCCCCCCCOC2=CC=C(C=C2)C#N)C=C(C=C1)O | C22H25NO5
